US07648986B2
Step 2: Preparation of 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylic acid
Methyl 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylate (0.5 g, 1.6 mmol) was dissolved in CH2Cl2 (100 mL) at 0° C. and BBr3 (4.8 mL, 1M solution in CH2Cl2) was added dropwise. The solution was stirred at room temperature overnight. The reaction was quenched with NH4Cl at 0° C. The organic layer washed with NaHCO3 and separated. The resulting organic layer was treated slowly with dil HCl until the solution became acidic. The mixture was concentrated and redissolved in EtOAc. This solution washed with water, The solvent was removed under reduced pressure and the crude product was re-crystallized from methanol to give the desired product (0.2 g, 42%). HPLC/MS: (M+H)+ 300.1 m/z. Retention time (LC-MS)=2.65 min. 1H NMR (DMSO-D6): 13.75 (s, 1H, broad); 12.43(s, 1H); 9.61(s, 1H); 8.26(m, 2H); 8.17(m, 1H); 8.07(m, 2H); 7.99(d, 1H).

reactant | Methyl 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylate | 1.6 mmol, 0.5 g | N1=C(C=NC2=CC=CC=C12)C(=O)NC1=C(SC=C1)C(=O)OC | C15H11N3O3S
reactant | BBr3 | 1M, 4.8 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylic acid | 0.2 g, 42% | N1=C(C=NC2=CC=CC=C12)C(=O)NC1=C(SC=C1)C(=O)O | C14H9N3O3S
